US06090802
By using 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-diphenylphosphoryloxy-1-carbapen-2-em-3-carboxylate (1.40 g) and (2S,4S)-2-[(3S)-3-[(3R,4S)-3-hydroxy-4-(4-nitrobenzyloxycarbonyl)amino-5-phenylpentanoylamino]-pyrrolidin-1-ylcarbonyl]-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.80 g), reaction and purification were carried out in a similar manner to that described in Example 1-(1), whereby 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl)-2-[(2S,4S)-2-[(3S)-3-[(3R,4S)-3-hydroxy-4-(4-nitrobenzyloxycarbonyl)amino-5-phenylpentanoylamino]pyrrolidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)-pyrrolidin-4-ylthio]-1-methyl-1-carbapen-2-em-3-carboxylate (2.13 g) was obtained as an amorphous substance.

reactant | 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-diphenylphosphoryloxy-1-carbapen-2-em-3-carboxylate | 1.40 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)OP(=O)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C29H27N2O8P
reactant | (2S,4S)-2-[(3S)-3-[(3R,4S)-3-hydroxy-4-(4-nitrobenzyloxycarbonyl)amino-5-phenylpentanoylamino]-pyrrolidin-1-ylcarbonyl]-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.80 g | O[C@H](CC(=O)N[C@@H]1CN(CC1)C(=O)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C36H40N6O11S
product | 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl)-2-[(2S,4S)-2-[(3S)-3-[(3R,4S)-3-hydroxy-4-(4-nitrobenzyloxycarbonyl)amino-5-phenylpentanoylamino]pyrrolidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)-pyrrolidin-4-ylthio]-1-methyl-1-carbapen-2-em-3-carboxylate | 2.13 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2C[C@H](CC2)NC(C[C@H]([C@H](CC2=CC=CC=C2)NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])O)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C53H56N8O17S
